US04851519
A mixture of 1.40 g of 2'-deoxy-3'-O-ethyl-5-ethyluridine, 1.3 g of triphenylphosphine, 1.59 g of sodium azide and 1.66 g of carbon tetrabromide in 19 ml of dimethylformamide was stirred at room temperature for 20 hours. 11 ml of methanol were added, the mixture was stirred for 30 minutes and then evaporated. The residue was suspended in 110 ml of water and extracted three times with 70 ml of ethyl acetate each time. The combined ethyl acetate extracts were evaporated and the residue was subject to flash chromatography on a column of silica gel using ethyl acetate/hexane (2:1) for the elution, there being obtained 1.26 g of 5'-azido-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine in the form of a colorless oil.

reactant | 2'-deoxy-3'-O-ethyl-5-ethyluridine | 1.40 g | C(C)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)CC | C13H20N2O5
reactant | triphenylphosphine | 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium azide | 1.59 g | [N-]=[N+]=[N-].[Na+]
reactant | carbon tetrabromide | 1.66 g | C(Br)(Br)(Br)Br | CBr4
solvent | dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
solvent | methanol | 11 ml | CO | CH4O
product | 5'-azido-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine | 1.26 g | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)OCC | C13H19N5O4
